US04555572
A solution of 3.6 g of 2-hydroxyethyl hydrazine in 5 ml of methanol and 20 ml of THF was added over 1.5 hours to a mixture of 6.09 g of 1-chloro-7-methoxy-4-nitro-9(10H)-acridinone in 75 ml of methanol and 55 ml of THF, and the resulting suspension was stirred 20 hours at room temperature. The precipitate was collected and recrystallized from DMSO-methanol, providing 9-methoxypyrazolo[3,4,5-kl]acridine-2(6H)-ethanol, mp 275°-276° C.

reactant | 2-hydroxyethyl hydrazine | 3.6 g | OCCNN | C2H8N2O
reactant | 1-chloro-7-methoxy-4-nitro-9(10H)-acridinone | 6.09 g | ClC1=CC=C(C=2NC3=CC=C(C=C3C(C12)=O)OC)[N+](=O)[O-] | C14H9ClN2O4
solvent | methanol | 5 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methanol | 75 ml | CO | CH4O
solvent | THF | 55 ml | C1CCOC1 | C4H8O
product | 9-methoxypyrazolo[3,4,5-kl]acridine-2(6H)-ethanol | COC1=CC=2C=3C4=C(C=CC=C4NC2C=C1)N(N3)CCO | C16H15N3O2
